US04134980
1-[6,7-Dimethoxy-1(2H)-phthalazinone-2-yl]-3-chloro-propane was prepared analogous to Example 1 (a) by reaction of 6,7-dimethoxy-1(2H)-phthalazinone with 1-bromo-3-chloro-propane in dimethylformamide. Rf -value (chloroform/methanol = 9/1) : 0.9.

reactant | 6,7-dimethoxy-1(2H)-phthalazinone | COC=1C=C2C=NNC(C2=CC1OC)=O | C10H10N2O3
reactant | 1-bromo-3-chloro-propane | BrCCCCl | C3H6BrCl
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[6,7-Dimethoxy-1(2H)-phthalazinone-2-yl]-3-chloro-propane | COC=1C=C2C=NN(C(C2=CC1OC)=O)CCCCl | C13H15ClN2O3
